US09062032B2
To a mixture of 2.18 g of benzyl 5-(bromomethyl)thiophene-2-carboxylate and 26 mL of toluene was added 1.86 g of triphenylphosphine, followed by stirring overnight at 80° C. The insoluble material was collected by filtration, thereby obtaining 2.89 g of ({5-[(benzyloxy)carbonyl]-2-thienyl}methyl)(triphenyl)phosphonium bromide.

reactant | benzyl 5-(bromomethyl)thiophene-2-carboxylate | 2.18 g | BrCC1=CC=C(S1)C(=O)OCC1=CC=CC=C1 | C13H11BrO2S
reactant | triphenylphosphine | 1.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 26 mL | C1(=CC=CC=C1)C | C7H8
product | ({5-[(benzyloxy)carbonyl]-2-thienyl}methyl)(triphenyl)phosphonium bromide | 2.89 g | [Br-].C(C1=CC=CC=C1)OC(=O)C1=CC=C(S1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C31H26O2PS.BrH/c32-31(33-23-25-13-5-1-6-14-25)30-22-21-29(35-30)24-34(26-15-7-2-8-16-26,27-17-9-3-10-18-27)28-19-11-4-12-20-28;/h1-22H,23-24H2;1H/q+1;/p-1
